US08242104B2
Alternatively, 8-Bromo-2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene may be prepared whereby a mixture of 4-bromo-2-fluoro-benzamidine hydrochloride (5.67 g, 22.3 mmol), potassium hydrogen carbonate (8.95 g, 89.4 mmol), THF (45 mL) and water (10 mL) was heated to reflux and a solution of 2-bromo-1-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-ethanone (5.5 g, 22.3 mmol) in THF (15 mL) added dropwise. The reaction mixture was heated at reflux for 18 h before removal of volatile solvent in vacuo. The resultant suspension was filtered and the residue triturated in hot diethyl ether to give 5-[2-(4-Bromo-2-fluoro-phenyl)-1H-imidazol-4-yl]-1-isopropyl-3-methyl-1H-[1,2,4]triazole as an off-white solid (6.4 g, 79%). 1H NMR 400 MHz (DMSO-d) δ: 7.97 (1H, t, J=8.30 Hz), 7.81 (1H, s), 7.76 (1H, dd, J=10.68, 1.92 Hz), 7.58 (1H, dd, J=8.42, 1.93 Hz), 5.79 (1H, br, m), 2.26 (3H, s), 1.44 (6H, d, J=6.60 Hz).

reactant | 8-Bromo-2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)C(C)C)C=C1 | C17H18BrN5O
reactant | 4-bromo-2-fluoro-benzamidine hydrochloride | 22.3 mmol, 5.67 g | Cl.BrC1=CC(=C(C(=N)N)C=C1)F
reactant | potassium hydrogen carbonate | 89.4 mmol, 8.95 g | C(O)([O-])=O.[K+]
reactant | 2-bromo-1-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-ethanone | 22.3 mmol, 5.5 g | BrCC(=O)C=1N(N=C(N1)C)C(C)C | C8H12BrN3O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 5-[2-(4-Bromo-2-fluoro-phenyl)-1H-imidazol-4-yl]-1-isopropyl-3-methyl-1H-[1,2,4]triazole | 6.4 g, 79% | BrC1=CC(=C(C=C1)C=1NC=C(N1)C1=NC(=NN1C(C)C)C)F | C15H15BrFN5
